US05250527
5N NaOH (3.39 ml) was added dropwise to a stirred solution of 2-chloromethyl-3-fluoro-4-morpholinopyridine hydrochloride (2.06 g) and 5-methoxy-(1H)-benzimidazole-2-thiol (1.39 g) in ethanol (35 ml). After 3 hours excess solvent was removed and the residue treated with water (80 ml) and extracted with dichloromethane. The extracts were washed with water, dried (K2CO3), excess solvent removed and the residue crystallised from ethyl acetate to yield 2-(4-morpholino-3-fluoro-2-pyridylmethylthio)-5-methoxy-(1H)-benzimidazole (2.16 g) m.p. 121°-123°.

reactant | NaOH | 5N, 3.39 ml | [OH-].[Na+]
reactant | 2-chloromethyl-3-fluoro-4-morpholinopyridine hydrochloride | 2.06 g | Cl.ClCC1=NC=CC(=C1F)N1CCOCC1
reactant | 5-methoxy-(1H)-benzimidazole-2-thiol | 1.39 g | COC1=CC2=C(NC(=N2)S)C=C1 | C8H8N2OS
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-(4-morpholino-3-fluoro-2-pyridylmethylthio)-5-methoxy-(1H)-benzimidazole | 2.16 g | O1CCN(CC1)C1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)OC)F | C18H19FN4O2S
